US07846671B2
Bromine (26.4 g) was added to a solution of 4-chloro-o-anisidine (23.55 g) in dichloromethane (400 mL) at room temperature. The resulting mixture was stirred for 10 hours and quenched with NaOH. The organic layer was washed with brine, dried over MgSO4, and concentrated. Purification by flash chromatography over silica gel (elution with 10% ethyl acetate in hexanes) gave 11.8 g (33%) of the desired 4-chloro-5-bromo-2-aminoanisole. 1H NMR (300 MHz, CDC13) d 6.94 (s, 1 H), 6.78 (s, 1 H), 3.83 (s, 3 H).

reactant | Bromine | 26.4 g | BrBr | Br2
reactant | 4-chloro-o-anisidine | 23.55 g | ClC=1C=C(C(OC)=CC1)N | C7H8ClNO
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 4-chloro-5-bromo-2-aminoanisole | 11.8 g, 33% | ClC1=CC(=C(C=C1Br)OC)N | C7H7BrClNO
